US06794382B2
3.4: 1-Methyl-1-[1-(6-oxo-5,6-dihydro-4H-imidazo[4,5,1-ij]quinolin-2-yl)-4-piperidyl]piperidinium chloride
400 mg of 2-chloro-4,5-dihydro-6H-imidazo[4,5,1-ij]quinolin-6-one in 5 mL of dimethylformamide, 70 mg of potassium fluoride, 0.2 mL of 2,6-lutidine and 1.6 g of 4-(N-methylpiperidinium)piperidine chloride are added to a three-necked flask under argon and left stirring for 5 hours at 140° C. The mixture is evaporated on a vacuum pump and the residue obtained is chromatographed with 70 g of Silica H (Merck) (eluent: dichloromethane with 10% methanol and 0.5% triethylamine). 50 mg of pure product are obtained, the NMR spectrum of which corresponds to the desired structure.

reactant | 2-chloro-4,5-dihydro-6H-imidazo[4,5,1-ij]quinolin-6-one | 400 mg | ClC1=NC=2C=CC=C3C(CCN1C23)=O | C10H7ClN2O
reactant | potassium fluoride | 70 mg | [F-].[K+]
reactant | 2,6-lutidine | 0.2 mL | N1=C(C=CC=C1C)C | C7H9N
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 1-Methyl-1-[1-(6-oxo-5,6-dihydro-4H-imidazo[4,5,1-ij]quinolin-2-yl)-4-piperidyl]piperidinium chloride | 50 mg | [Cl-].C[N+]1(CCCCC1)C1CCN(CC1)C1=NC=2C=CC=C3C(CCN1C23)=O | InChI=1S/C21H29N4O.ClH/c1-25(14-3-2-4-15-25)16-8-11-23(12-9-16)21-22-18-7-5-6-17-19(26)10-13-24(21)20(17)18;/h5-7,16H,2-4,8-15H2,1H3;1H/q+1;/p-1
